US07390809B2
Step C: 8-[2-(dimethylamino)-2-oxoethyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine, hydrochloride
7-N-(tert-butoxycarbonyl)-8-[2-(dimethylamino)-2-oxoethyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine (630 mg, 1.67 mmol) was dissolved in 5 mL of methanol saturated with hydrogen chloride. The reaction was stirred at ambient temperature for 1 h. Concentration in vacuo gave the title compound as an off-white solid. LC/MS 278 (M+1).

reactant | 7-N-(tert-butoxycarbonyl)-8-[2-(dimethylamino)-2-oxoethyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | 1.67 mmol, 630 mg | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)CC(=O)N(C)C | C15H22F3N5O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 8-[2-(dimethylamino)-2-oxoethyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine, hydrochloride | Cl.CN(C(CC1C=2N(CCN1)N=C(N2)C(F)(F)F)=O)C | InChI=1S/C10H14F3N5O.ClH/c1-17(2)7(19)5-6-8-15-9(10(11,12)13)16-18(8)4-3-14-6;/h6,14H,3-5H2,1-2H3;1H
